US06586630B1
(3) Synthesis of 3-tert-Butyl-4-fluorobenzyl Iodide
To a solution of 3-tert-butyl-4-fluorobenzyl bromide (1.49 g, 6.08 mmol) in acetone (50 ml), sodium iodide (9.1 g, 60.8 mmol) was added, followed by stirring at room temperature overnight. The reaction mixture was mixed with water and extracted with n-hexane. The organic layer was washed with an aqueous sodium thiosulfate solution and saturated brine, dried over sodium sulfate and evaporated under reduced pressure to remove the solvent. The thus obtained residue was subjected to silica gel column chromatography (developing solvent: n-hexane) to give the titled compound (1.18 g, 66%).

reactant | 3-tert-butyl-4-fluorobenzyl bromide | 6.08 mmol, 1.49 g | C(C)(C)(C)C=1C=C(CBr)C=CC1F | C11H14BrF
reactant | sodium iodide | 60.8 mmol, 9.1 g | [I-].[Na+]
reactant | water | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 3-tert-Butyl-4-fluorobenzyl Iodide | 1.18 g, 66% | C(C)(C)(C)C=1C=C(CI)C=CC1F | C11H14FI
